US07687491B2
(1c) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-furonitrile
To a solution of 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-furaldehyde (3.2 g, 13 mmol) that was obtained in Example 1 (1b) in dichloromethane (40 ml) were added successively hydroxylamine hydrochloride (1.0 g, 15 mmol) and triethylamine (3.7 ml, 27 mmol) with stirring, and the resulting mixture was stirred at room temperature for 2 hours. After stirring, the reaction mixture was evaporated in vacuo. Subsequently, to a solution of the residue obtained in toluene (40 ml) was added N,N′-dicyclohexylcarbodiimide (3.1 g, 15 mmol) with stirring, and the resulting mixture was stirred at 90° C. for 16 hours. After cooling to room temperature, hexane (40 ml) was added to the reaction mixture, and insoluble materials were removed by filtration with Celite. The filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (3:97) as the eluent to afford the title compound (1.8 g) in a yield of 57% as a colourless oily product.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-furaldehyde | 13 mmol, 3.2 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CO1)C=O | C12H20O3Si
reactant | hydroxylamine hydrochloride | 15 mmol, 1.0 g | Cl.NO
reactant | triethylamine | 27 mmol, 3.7 ml | C(C)N(CC)CC | C6H15N
reactant | N,N′-dicyclohexylcarbodiimide | 15 mmol, 3.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | hexane | 40 ml | CCCCCC | C6H14
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-furonitrile | yield of 57% | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CO1)C#N | C12H19NO2Si
